US05623072
4-Fluoro-5-methoxy-3-[3-(trifluoromethyl)phenyl]pyridazine (0.6 g, 0.0022 mole, Compound No. 46) and methylamine (1.54 g of a 40% solution in water, 0.0194 mole) were stirred at RT in THF (20 mL) under N2 for 24 h. The mixture was poured into water and extracted 3×50 mL with ethyl acetate. The organic layer was dried (MgSO4), filtered, and evaporated in vacuo. The crude solid was recrystallized from cyclohexane/ethyl acetate to give 5-methoxy-N-methyl-3-[3-(trifluoromethyl)phenyl]-4-pyridazinamine (0.59 g, 95% yield, Compound No. 86) as an off white solid.

reactant | 4-Fluoro-5-methoxy-3-[3-(trifluoromethyl)phenyl]pyridazine | 0.0022 mole, 0.6 g | FC1=C(N=NC=C1OC)C1=CC(=CC=C1)C(F)(F)F | C12H8F4N2O
reactant | methylamine | CN | CH5N
solvent | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-methoxy-N-methyl-3-[3-(trifluoromethyl)phenyl]-4-pyridazinamine | 0.59 g, 95% yield | COC=1C(=C(N=NC1)C1=CC(=CC=C1)C(F)(F)F)NC | C13H12F3N3O
